US05523439
14.6 g of acetyl chloride was added to a solution, in 200 ml of dichloromethane, of 30.0 g of 4-n-pentyl-1,1-diphenyl-1-silacyclohexane obtained in Preparatory Example 3 and 24.8 g of aluminium chloride at room temperature, followed by agitation for 1 hour to obtain a mixture of 4-n-pentyl-1,1-dichloro-1-silacyclohexane and acetophenone. The reaction mixture was concentrated, after which the acetophenone was distilled off under reduced pressure. The residue was dissolved in 100 ml of THF, to which a solution of 10.0 g of lithium aluminium hydride in 100 ml of THF was added. The reaction mixture was agitated under reflux for 1 hour, followed by pouring into 200 ml of 5% hydrochloric acid and extraction with ethyl acetate. The resultant extract was washed with brine, dried and concentrated by a usual manner, followed by purification through silica gel chromatography to obtain 15.0 g of 4-n-pentyl-1-silacyclohexane.

reactant | 4-n-pentyl-1,1-dichloro-1-silacyclohexane | C(CCCC)C1CC[Si](CC1)(Cl)Cl | C10H20Cl2Si
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
product | 4-n-pentyl-1-silacyclohexane | 15.0 g | C(CCCC)C1CC[SiH2]CC1 | C10H22Si
